US04892872
A solution of 4.0 g of 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid in 80 ml of tetrahydrofuran is cooled to below 0° C. and 3.17 g of N-methylmorpholine is added under stirring thereto. Further, 2.35 g of isobutyl chlorocarbonate is added and the mixture is stirred at the same temperature for 45 minutes. To the resultant mixture is added 3.77 g of 3-amino-1-(3-phenylpropyl)piperidine and the mixture stirred for 3 hours. After completion of the reaction, aqueous sodium hydrogen carbonate and ethyl acetate are added. The organic layer is separated, washed with water and dried over magnesium sulfate. The solvent is distilled off and the residue is recrystallized from ethanol followed by treating with ethnnolic hydrochloric acid to give 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-N-[1-(3-phenylpropyl)-4-piperidyl]-2H-1,4-benzoxazine-8carboxamide hydrochloride, melting at 174°-176° C. with decomposition.

reactant | 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 4.0 g | ClC=1C=C(C2=C(N(C(C(O2)C)=O)C)C1)C(=O)O | C11H10ClNO4
reactant | N-methylmorpholine | 3.17 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 2.35 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | 3-amino-1-(3-phenylpropyl)piperidine | 3.77 g | NC1CN(CCC1)CCCC1=CC=CC=C1 | C14H22N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-N-[1-(3-phenylpropyl)-4-piperidyl]-2H-1,4-benzoxazine-8carboxamide hydrochloride | Cl.ClC=1C=C(C2=C(N(C(C(O2)C)=O)C)C1)C(=O)NC1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C25H30ClN3O3.ClH/c1-17-25(31)28(2)22-16-19(26)15-21(23(22)32-17)24(30)27-20-10-13-29(14-11-20)12-6-9-18-7-4-3-5-8-18;/h3-5,7-8,15-17,20H,6,9-14H2,1-2H3,(H,27,30);1H
